US08053438B2
In an oven-dried flask were charged 2-fluoro-3-iodopyrazine (0.829 g, 3.70 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(ii) complex with dichloramethane (0.091 g, 0.111 mmol), copper(i) iodide (0.042 g, 0.222 mmol), and DMA (3 mL). The resulting mixture was degassed with alternating vacuum/nitrogen purges. The (1-(tert-butoxycarbonyl)piperidin-4-yl)zinc(II) iodide (1.951 g, 5.18 mmol) solution from previous step was filtered into the mixture. It was degassed one more time and then heated to 80° C. with stirring for 16 h. After cooling to RT, the reaction mixture was treated with methyl bert-butylether (13 ml) and 1 N NH4Cl (13 ml). The organic layer was partitioned between Teac and 1 N NH4Cl and the aqueous layer was back extracted with Teac (2×). The combined organic layer was washed with water, brine, dried (Na2SO4) and concentrated. The crude material was chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 20% Teac in hexane, to provide tert-butyl 4-(3-fluoropyrazin-2-yl)piperidine-1-carboxylate as orange oil. MS (ESI, pos. ion) m/z: 226.0 (M-56).

reactant | 2-fluoro-3-iodopyrazine | 3.70 mmol, 0.829 g | FC1=NC=CN=C1I | C4H2FIN2
reactant | (1-(tert-butoxycarbonyl)piperidin-4-yl)zinc(II) iodide | 5.18 mmol, 1.951 g | [I-].C(C)(C)(C)OC(=O)N1CCC(CC1)[Zn+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | copper(i) iodide | 0.222 mmol, 0.042 g | [Cu]I
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl 4-(3-fluoropyrazin-2-yl)piperidine-1-carboxylate | FC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H20FN3O2
